* LTspice Test Netlist 1

* Anything after semicolon is comment
* Anything after asterisk is comment
* Circuit Schematic
*    ______ _____
*   |      |     |
* + |      R     R
*   V1     |--R--|
* - |      R     R
*   |______|_____|
*


V1 1 0 12; 12 Volt source
R1 1 2 10; 10 ohm resistor
R2 1 3 20; 20 ohm resistor
R3 2 3 7.5; 7.5 ohm resistor
R4 2 0 30; 30 ohm resistor
R5 3 0 5; 5 ohm resistor

.op ; Operating point DC analysis